US06255303B1
A3. (cis)-2-(3-chloro-4-methoxybenzoyl)-1,2,3,6-tetrahydrobenzoic acid
0.5 mole of 2-chloroanisole was added slowly to a suspension of 0.5 mole aluminiumtrichloride in 1 l of dichloromethane at 0° C. After complete addition, cis-1,2,3,6-tetrahydrophthalic anhydride was added to the solution. After 8 hours of reflux the solution was poured into ice-cold water. The precipitate was filtered off, washed with water and diethyl ether and dried. M.p. 183-1 85° C.

reactant | 2-chloroanisole | 0.5 mole | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | aluminiumtrichloride | 0.5 mole | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | cis-1,2,3,6-tetrahydrophthalic anhydride | C1([C@H]2[C@@H](C(=O)O1)CC=CC2)=O | C8H8O3
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
product | (cis)-2-(3-chloro-4-methoxybenzoyl)-1,2,3,6-tetrahydrobenzoic acid | ClC=1C=C(C(=O)[C@@H]2[C@H](C(=O)O)CC=CC2)C=CC1OC | C15H15ClO4
